US07700595B2
N-(5-Bromo-2-methoxybenzyl)-3-(8-chloro-3-phenylcinnolin-4-yl)aniline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 5-bromo-2-methoxybenzaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 529.9.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 5-bromo-2-methoxybenzaldehyde | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
product | N-(5-Bromo-2-methoxybenzyl)-3-(8-chloro-3-phenylcinnolin-4-yl)aniline | BrC=1C=CC(=C(CNC2=CC(=CC=C2)C2=C(N=NC3=C(C=CC=C23)Cl)C2=CC=CC=C2)C1)OC | C28H21BrClN3O
